Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall resulting in right ___ rib fractures, right sided 
pneumothorax
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man transferred from ___ for
trauma evaluation after presenting a fall at home.  Patient
states that he was spending time with a friend in his home and 
at
around 4 ___ he got up from his chair to escorted his friend out. 

After doing this he took a few too many steps and lost his
balance and ended up falling into the arm rest of his chair,
where he struck his right chest wall and the arm rest.  He then
lowered himself to the floor and landed on his bottom.  Denies
any head strike or loss of consciousness during this episode.  
He
reports feeling a popping sensation in his right chest along 
with
immediately feeling winded and experiencing right-sided chest
pain after this episode.  EMS was called and transferred him to
___, where workup was notable for right-sided 
rib
fractures.  Therefore he was transferred to ___
for trauma evaluation.  Currently, patient does complain of some
continued right-sided chest pain along with difficulty taking
deep breaths.  Otherwise has no acute complaints.  Does state
that he has had some balance issues for which he was supposed to
start ___ soon.  ACS consulted for trauma eval.

 
Past Medical History:
PMH:
HTN
HLD
hypothyroidism
anxiety
facial neuralgia

PSH:
Cholecystectomy
 
Social History:
___
Family History:
noncontributory 
 
Physical Exam:
Vitals:
T 97.2 BP 145 / 92 HR 79 RR 18 O2 94% on room air 
Gen: Alert and oriented, no acute distress, well appearing
HEENT: Neck supple, trachea midline, no facial ecchymosis or 
tenderness
CV: Regular rate and rhythm
Pulm: Breathing unlabored on room air, IS of 1500cc, Right 
posterior chest wall mildly tender to palpation
Abdomen: soft, nontender, mildly distended, no rigidity or 
guarding
Ext: warm and well perfused, venous stasis changes of the lower 
extremities bilaterally 
Neuro: motor and sensory intact on the upper and lower 
extremities bilaterally. 
 
Pertinent Results:
___ 07:58AM   GLUCOSE-121* UREA N-11 CREAT-0.8 SODIUM-131* 
POTASSIUM-5.0 CHLORIDE-92* TOTAL CO2-26 ANION GAP-13
___ 07:58AM   GLUCOSE-121* UREA N-11 CREAT-0.8 SODIUM-131* 
POTASSIUM-5.0 CHLORIDE-92* TOTAL CO2-26 ANION GAP-13
___ 07:58AM   CALCIUM-9.0 PHOSPHATE-3.5 MAGNESIUM-2.3
___ 07:58AM   WBC-8.9 RBC-4.22* HGB-14.2 HCT-41.9 MCV-99* 
MCH-33.6* MCHC-33.9 RDW-13.2 RDWSD-48.5*
___ 07:58AM   PLT COUNT-237
___ 10:00PM   GLUCOSE-124* UREA N-12 CREAT-0.7 SODIUM-128* 
POTASSIUM-5.5* CHLORIDE-92* TOTAL CO2-22 ANION GAP-14
___ 10:00PM   estGFR-Using this
___ 10:00PM URINE  UHOLD-HOLD
___ 10:00PM URINE  UHOLD-HOLD
___ 10:00PM   WBC-11.9* RBC-4.47* HGB-15.3 HCT-44.2 MCV-99* 
MCH-34.2* MCHC-34.6 RDW-13.2 RDWSD-48.2*
___ 10:00PM   NEUTS-87.1* LYMPHS-5.5* MONOS-6.5 EOS-0.1* 
BASOS-0.3 IM ___ AbsNeut-10.37* AbsLymp-0.66* AbsMono-0.77 
AbsEos-0.01* AbsBaso-0.03
___ 10:00PM   PLT COUNT-232
___ 10:00PM   PLT COUNT-232
___ 10:00PM   ___ PTT-25.2 ___
___ 10:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:00PM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 10:00PM URINE  RBC-6* WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-0
 
Brief Hospital Course:
Mr. ___ was admitted to the Acute Care Surgery service for 
further management of his pain and observation of his injuries. 
He continued to recover well on the floor without issues. His 
pain was well controlled and he was able to pull volumes of 
1000-1500mL with his incentive spirometer consistently through 
his stay. Further history revealed possible presyncope before 
his fall. An echocardiogram was ordered which revealed no 
structure cause of possible syncope. He was assessed by Physical 
Therapy and Occupational Therapy and deemed appropriate for 
discharge home with home physical therapy. A repeat chest x ray 
revealed a stable to improved right pneumothorax. The patient's 
pain from his rib fractures was easily controlled with oral 
medications.

The decision was made to discharge the patient. At time of 
discharge, the patient's pain was well controlled, his breathing 
was unlabored on room air, he was tolerating a regular diet, and 
he was ambulating independently. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO BID 
2. Atorvastatin 10 mg PO QPM 
3. CarBAMazepine 200 mg PO TID 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. LORazepam 1 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q6H mild pain 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides 8.6 mg 1 tablet by mouth twice daily Disp #*60 
Tablet Refills:*0 
5.  TraMADol 25 mg PO Q6H:PRN Pain - Severe 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every 6 
hours as needed Disp #*14 Tablet Refills:*0 
6.  Atenolol 25 mg PO BID  
7.  Atorvastatin 10 mg PO QPM  
8.  CarBAMazepine 200 mg PO TID  
9.  Levothyroxine Sodium 50 mcg PO DAILY  
10.  LORazepam 1 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Mechanical fall resulting in right ___ rib fractures
Right pneumothorax
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
following your accident. You are recovering well and are now 
ready for discharge. Please follow the instructions below to 
continue your recovery:

* Your injury caused right ___ rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___